2178-09-04 07:05:00 Physician Resident Progress Note
Chief Complaint: hypoxemic respiratory failure
   24 Hour Events:
   extubated yesterday AM, tolerated well.  continued on lasix 5 mg IV per
   hour with good response, net (-) 1.2 just after midnight, now net (-)
   2.1 L.
   NPO for right heart cath this AM.  repleted Mg, K.
   no events overnight.
   Tele: NSR with occasional PVCs and skipped beats
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-9-1**] 08:00 AM
   Metronidazole - [**2178-9-3**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Fentanyl - [**2178-9-3**] 10:15 AM
   Ranitidine (Prophylaxis) - [**2178-9-3**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   no complaints this AM, feeling well
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-4**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.3
   HR: 83 (72 - 98) bpm
   BP: 112/72(81) {96/46(59) - 136/85(96)} mmHg
   RR: 15 (8 - 19) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 112.6 kg (admission): 114 kg
   Height: 74 Inch
             Total In:
                                                                  1,753 mL
                                                                    115 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                    813 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  3,025 mL
                                                                  1,080 mL
   Urine:
                                                                  3,025 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,272 mL
                                                                   -965 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 769 (769 - 868) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 11
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 8.9 L/min
   Physical Examination
   Gen: A&O x3, overweight white male, lying in bed, NAD
   HEENT: NCAT, PERLL, OP clear, MMM
   Neck: supple, no carotid bruits, to JVD visible
   Chest: midline sternotomy scar well-healed, L chest pacer scar well
   healed
   CV: RRR, nl S1/S2, mechanical valve, soft systolic murmur at apex
   Resp: decreased breath sounds, otherwise CTAB
   Abd: soft, NT/ND, NABS
   Ext: L BKA, R lateral ulcer with wound vac in place, + warmth, no
   surrounding erythema, R shin with 2+ putting edema to knee.  LUE with
   nonpitting edema
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse:
   N/A)
   Skin:  scattered ecchymoses, otherwise no rashes or lesions
   Neurologic: Responds to: verbal stimuli
   Labs / Radiology
   305 K/uL
   7.7 g/dL
   87 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.3 mEq/L
   22 mg/dL
   99 mEq/L
   135 mEq/L
   24.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2178-8-30**]  05:52 PM
                             [**2178-8-31**]  03:14 AM
                             [**2178-8-31**]  03:22 AM
                             [**2178-8-31**]  06:01 AM
                             [**2178-9-1**]  02:35 AM
                             [**2178-9-1**]  08:20 PM
                             [**2178-9-3**]  02:42 AM
                             [**2178-9-3**]  03:27 AM
                             [**2178-9-3**]  05:23 PM
                             [**2178-9-4**]  03:13 AM
   WBC
   11.6
   10.3
   8.5
   11.5
   8.1
   Hct
   29.0
   27.8
   26.1
   28.1
   24.3
   Plt
   374
   376
   346
   358
   305
   Cr
   0.9
   0.7
   0.7
   1.0
   0.9
   1.0
   TropT
   0.23
   0.19
   TCO2
   24
   21
   29
   Glucose
   238
   209
   272
   276
   180
   87
   Other labs: PT / PTT / INR:20.6/>150.0/1.9, CK / CKMB /
   Troponin-T:70/14/0.19, ALT / AST:22/46, Alk Phos / T Bili:94/0.4,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:736 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:300
   IU/L, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   67y/o M with a complex PMH most notable for progressive worsening CHF
   and recurrent hypoxic episodes due to pulmonary edema requiring
   intubation.
   .
   #Respiratory distress- the percipitant of his frequent hypoxic episodes
   remains unclear, although overall picture is consistent with volume
   overload in the setting of insufficient diuresis.   Patient extubated,
   diuresing well.
   - All cultures NGTD
 consider stopping flagyl (started for c. diff
   concern)
   - continue lasix drip (currently 5 mg/hr) and metolazone 5 [**Hospital1 **]
   - goal net (-) 2.1 L
   - [**Hospital1 **] lytes
   - atrovent/albuterol nebs
   - RHC today
   .
   # acute on chronic Systolic CHF - EF 25-30%, acute decompensation, will
   diurese, cont CHF medication,
   - goal negative 2L
   - coumadin held, on heparin ggt
   .
   # Hx of VF arrest:
   - Continue amiodarone
   .
   # CAD:
   - Continue atorvastatin 40
   .
   # s/p Mechanical AVR - currently on coumadin with goal INR 2.5-3.5.
   (coumadin on hold for procedure, on heparin ggt)
   .
   # DM type 2 - continue home lantus (125 qhs) and insulin SS
   .
   # Dyslipidemia - continue statin
   .
   #. Leg Ulcer - cont daily wound care, gabapentin
   .
   # hx Acute on chronic SDH ([**8-/2175**]): continue keppra
   # FEN/GI
 NPO for procedure today
   -continue senna/colace/bisacodyl
   -continue ranitidine 150 [**Hospital1 **]
   -will d/c flagyl
   .
   # Code: Presumed Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-9-3**] 12:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Plan for right heart cath today to settle issue of filling pressures
   continue iv lasix
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **]
   on:[**2178-9-4**] 08:57 ------

2178-09-05 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events: No events overnight. Pt is w/out complaints this
   morning. Yesterday Pt went for RHC.
   RHC showed wedge of 25.:
   1. Limited resting hemodynamics revealed elevated right and left sided
   filling pressures. The RVEDP was moderately elevated at 14 mmHg, and
   the PCWP was moderately elevated with a mean of 24 mmHg. The pulmonary
   pressures were moderately elevated with essentially normal with a PASP
   of 41 mmHg. The cardiac index was preserved at 3.2 l/min/m2.
   FINAL DIAGNOSIS:
   1. Moderate left and right ventricular diastolic dysfunction.
   2. Moderate pulmonary artery hypertension.
   .
   Goal diuresis today - 1.5 L.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2178-9-3**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Heparin Sodium - [**2178-9-5**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-5**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 79 (68 - 86) bpm
   BP: 89/42(53) {89/42(53) - 118/65(78)} mmHg
   RR: 12 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 112.6 kg (admission): 114 kg
   Height: 74 Inch
             Total In:
                                                                  1,435 mL
                                                                     89 mL
   PO:
                                                                  1,020 mL
             TF:
   IVF:
                                                                    415 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  4,005 mL
                                                                    690 mL
   Urine:
                                                                  4,005 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,570 mL
                                                                   -601 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   Gen: A&O x3, overweight white male, lying in bed, NAD
   HEENT: NCAT, PERLL, OP clear, MMM
   Neck: supple, no carotid bruits, no JVD visible. L sided wound dressing
   c/d/i
   Chest: midline sternotomy scar well-healed, L chest pacer scar well
   healed
   CV: RRR, nl S1/S2, mechanical valve
   Resp: decreased breath sounds, otherwise CTAB
   Abd: soft, NT/ND, obese abdomen
   Ext: L BKA, R lateral ulcer with wound vac in place, + warmth, no
   surrounding erythema, R shin with 2+ putting edema to knee.  LUE with
   nonpitting edema
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse:
   N/A)
   Skin:  scattered ecchymoses, otherwise no rashes or lesions
   Neurologic: Responds to: verbal stimuli
   Labs / Radiology
   315 K/uL
   7.7 g/dL
   116 mg/dL
   1.0 mg/dL
   34 mEq/L
   3.7 mEq/L
   24 mg/dL
   96 mEq/L
   136 mEq/L
   24.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2178-8-31**]  03:22 AM
                             [**2178-8-31**]  06:01 AM
                             [**2178-9-1**]  02:35 AM
                             [**2178-9-1**]  08:20 PM
                             [**2178-9-3**]  02:42 AM
                             [**2178-9-3**]  03:27 AM
                             [**2178-9-3**]  05:23 PM
                             [**2178-9-4**]  03:13 AM
                             [**2178-9-4**]  06:22 PM
                             [**2178-9-5**]  02:52 AM
   WBC
   8.5
   11.5
   8.1
   6.8
   6.5
   Hct
   26.1
   28.1
   24.3
   25.5
   24.4
   Plt
   346
   358
   305
   298
   315
   Cr
   0.7
   0.7
   1.0
   0.9
   1.0
   1.0
   1.0
   TropT
   0.19
   TCO2
   24
   21
   29
   Glucose
   [**Telephone/Fax (3) 10218**]80
   87
   168
   116
   Other labs: PT / PTT / INR:18.5/47.3/1.7, CK / CKMB /
   Troponin-T:70/14/0.19, ALT / AST:22/46, Alk Phos / T Bili:94/0.4,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:736 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:300
   IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   67y/o M with a complex PMH most notable for progressive worsening CHF
   and recurrent hypoxic episodes due to pulmonary edema requiring
   intubation.
   .
   #Respiratory distress- the percipitant of his frequent hypoxic episodes
   remains unclear, although overall picture is consistent with volume
   overload in the setting of insufficient diuresis.   Patient extubated,
   diuresing well.
   - continue lasix drip (currently 5 mg/hr) and metolazone 5 [**Hospital1 **]
   - goal net (-) 1-2 L
   - [**Hospital1 **] lytes
   - atrovent/albuterol nebs
   .
   # acute on chronic Systolic CHF - EF 25-30%, acute decompensation, will
   diurese, cont CHF medication,
   - goal for yesterday was -1.5 L. Pt was negative 2.5 L after cath
   - Will restart Coumadin today
   - Pt will need nutrition/diet counseling to avoid further CHF
   exacerbations
   .
   # Hx of VF arrest:
   - Continue amiodarone
   .
   # CAD:
   - Continue atorvastatin 40
   .
   # s/p Mechanical AVR - coumadin held for procedure, on heparin ggt
   - Can restart home coumadin dose today
   .
   # DM type 2 - continue home lantus (125 qhs) and insulin SS
   .
   # Dyslipidemia - continue statin
   .
   #. Leg Ulcer - cont daily wound care, gabapentin
   .
   # hx Acute on chronic SDH ([**8-/2175**]): continue keppra
   .
    # FEN/GI
 diabetic, cardiac diet
   -continue senna/colace/bisacodyl
   -continue ranitidine 150 [**Hospital1 **]
   # Code: Presumed Full
   # Dispo: CCU for now. To home with services when stable
   - Will obtain PT consult today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-9-3**] 12:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   continue iv diuresis
   responding very well
   keep in ccu for at least another 24 hours
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **]
   on:[**2178-9-5**] 11:29 ------

2178-09-06 05:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2178-9-5**]: Continues to diurese well. Negative 1.3 L as of 9PM. Breathing
   comfortably on room air. Started Coumadin for mechanical aortic valve
   given no imminent procedures. PM lytes K 3.8, repleted K
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2178-9-3**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Heparin Sodium - [**2178-9-5**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-6**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 76 (71 - 93) bpm
   BP: 97/47(59) {89/42(53) - 122/71(83)} mmHg
   RR: 26 (11 - 29) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 110.2 kg (admission): 114 kg
   Height: 74 Inch
             Total In:
                                                                  1,478 mL
                                                                    208 mL
   PO:
                                                                  1,140 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    338 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                  2,870 mL
                                                                  1,180 mL
   Urine:
                                                                  2,870 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,392 mL
                                                                   -972 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : by anterior exam)
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   296 K/uL
   7.6 g/dL
   152 mg/dL
   1.0 mg/dL
   37 mEq/L
   3.8 mEq/L
   25 mg/dL
   94 mEq/L
   135 mEq/L
   24.3 %
   6.4 K/uL
        [image002.jpg]
                             [**2178-9-1**]  02:35 AM
                             [**2178-9-1**]  08:20 PM
                             [**2178-9-3**]  02:42 AM
                             [**2178-9-3**]  03:27 AM
                             [**2178-9-3**]  05:23 PM
                             [**2178-9-4**]  03:13 AM
                             [**2178-9-4**]  06:22 PM
                             [**2178-9-5**]  02:52 AM
                             [**2178-9-5**]  06:59 PM
                             [**2178-9-6**]  02:27 AM
   WBC
   8.5
   11.5
   8.1
   6.8
   6.5
   6.4
   Hct
   26.1
   28.1
   24.3
   25.5
   24.4
   24.3
   Plt
   346
   358
   305
   298
   315
   296
   Cr
   0.7
   0.7
   1.0
   0.9
   1.0
   1.0
   1.0
   1.1
   1.0
   TropT
   0.19
   TCO2
   29
   Glucose
   [**Telephone/Fax (3) 10218**]80
   87
   168
   116
   210
   152
   Other labs: PT / PTT / INR:17.9/79.5/1.6, CK / CKMB /
   Troponin-T:70/14/0.19, ALT / AST:22/46, Alk Phos / T Bili:94/0.4,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:736 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:300
   IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   67y/o M with a complex PMH most notable for progressive worsening CHF
   and recurrent hypoxic episodes due to pulmonary edema requiring
   intubation.
   .
   #Respiratory distress- the percipitant of his frequent hypoxic episodes
   remains unclear, although overall picture is consistent with volume
   overload in the setting of insufficient diuresis.   Patient extubated,
   diuresing well.
   - continue lasix drip (currently 5 mg/hr) and metolazone 5 [**Hospital1 **] -> will
   change to lasix 120 mg PO BID
   - goal net (-) 1-2 L. Pt net 1.4 L negative over past 24 hours.
   - [**Hospital1 **] lytes
   - atrovent/albuterol nebs
   .
   # acute on chronic Systolic CHF - EF 25-30%, acute decompensation, will
   diurese, cont CHF medication,
   - Continuing diuresis
   - Coumadin restarted yesterday
   - Pt will need nutrition/diet counseling to avoid further CHF
   exacerbations. Ordered in POE.
   .
   # Hx of VF arrest:
   - Continue amiodarone
   .
   # CAD:
   - Continue atorvastatin 40
   .
   # s/p Mechanical AVR - coumadin held for procedure, on heparin ggt
   - Restarted home Coumadin today
   .
   # DM type 2 - continue home lantus (125 qhs) and insulin SS
   .
   # Dyslipidemia - continue statin
   .
   #. Leg Ulcer - cont daily wound care, gabapentin
   .
   # hx Acute on chronic SDH ([**8-/2175**]): continue keppra
   .
    # FEN/GI
 diabetic, cardiac diet
   -continue senna/colace/bisacodyl
   -continue ranitidine 150 [**Hospital1 **]
   # Code: Presumed Full
   # Dispo: CCU for now. To home with services or rehab when stable.  PT
   consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-9-3**] 12:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housetsaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   continue diuresis
   convert to oral lasix 8-0 to 120 [**Hospital **]
   transfer to the floor
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **]
   on:[**2178-9-6**] 08:59 ------